US04138397
α-Acetamido(2,3-dihydro-5-benzofuranyl)acetic acid
α-Amino(2,3-dihydro-5-benzofuranyl)acetic acid (10 mmole) is dissolved in 25 ml of water containing 20 mmole of sodium hydroxide. The temperature is maintained at 10° C. while 10.5 mmole of acetyl chloride in 10 ml of ether is added over a period of 10 minutes. The reaction mixture is stirred for 20 minutes. Ethyl acetate is added and the pH is adjusted to 2 with hydrochloric acid. The layers are separated, the organic layer is dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | α-Amino(2,3-dihydro-5-benzofuranyl)acetic acid | 10 mmole | NC(C(=O)O)C=1C=CC2=C(CCO2)C1 | C10H11NO3
reactant | water | 20 mmole, 25 ml | O | H2O
reactant | acetyl chloride | 10.5 mmole | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-Acetamido(2,3-dihydro-5-benzofuranyl)acetic acid | C(C)(=O)NC(C(=O)O)C=1C=CC2=C(CCO2)C1 | C12H13NO4
